* Created by KLayout

* cell DEL2
* pin Y
* pin A
* pin vdd
* pin gnd
.SUBCKT DEL2 6 7 8 9
* net 6 Y
* net 7 A
* net 8 vdd
* net 9 gnd
* device instance $1 r0 *1 24.6,44.8 PMOS_mst
M$1 8 2 3 8 PMOS_mst L=8U W=10.2U AS=28.56P AD=15.3P PS=26U PD=13.2U
* device instance $2 r0 *1 34.6,44.8 PMOS_mst
M$2 4 3 8 8 PMOS_mst L=6U W=10.2U AS=15.3P AD=28.56P PS=13.2U PD=26U
* device instance $3 r0 *1 6.1,44.8 PMOS_mst
M$3 8 7 1 8 PMOS_mst L=1U W=10.2U AS=28.56P AD=15.3P PS=26U PD=13.2U
* device instance $4 r0 *1 11.6,44.8 PMOS_mst
M$4 2 1 8 8 PMOS_mst L=4U W=10.2U AS=15.3P AD=28.56P PS=13.2U PD=26U
* device instance $5 r0 *1 46.6,44.8 PMOS_mst
M$5 8 4 5 8 PMOS_mst L=4U W=10.2U AS=28.56P AD=15.3P PS=26U PD=13.2U
* device instance $6 r0 *1 52.1,44.8 PMOS_mst
M$6 6 5 8 8 PMOS_mst L=1U W=10.2U AS=15.3P AD=28.56P PS=13.2U PD=26U
* device instance $7 r0 *1 46.6,6.8 NMOS_mst
M$7 9 4 5 9 NMOS_mst L=4U W=3.4U AS=9.52P AD=5.1P PS=12.4U PD=6.4U
* device instance $8 r0 *1 52.1,6.8 NMOS_mst
M$8 6 5 9 9 NMOS_mst L=1U W=3.4U AS=5.1P AD=9.52P PS=6.4U PD=12.4U
* device instance $9 r0 *1 6.1,6.8 NMOS_mst
M$9 9 7 1 9 NMOS_mst L=1U W=3.4U AS=9.52P AD=5.1P PS=12.4U PD=6.4U
* device instance $10 r0 *1 11.6,6.8 NMOS_mst
M$10 2 1 9 9 NMOS_mst L=4U W=3.4U AS=5.1P AD=9.52P PS=6.4U PD=12.4U
* device instance $11 r0 *1 24.6,6.8 NMOS_mst
M$11 9 2 3 9 NMOS_mst L=8U W=3.4U AS=9.52P AD=5.1P PS=12.4U PD=6.4U
* device instance $12 r0 *1 34.6,6.8 NMOS_mst
M$12 4 3 9 9 NMOS_mst L=6U W=3.4U AS=5.1P AD=9.52P PS=6.4U PD=12.4U
.ENDS DEL2
